US04247555
From 4,9-dihydro-9-oxo-5-(tetrahydro-2-thienyl)pyrazolo[5,1-b]quinazoline-2-carboxylic acid, compound with methanol (1:1) (0.40 g; 1.3 mmole), DMF (20 ml); 1,1' carbonyl-diimidazole (0.5 g; 3.1 mmole) and 5-amino-1H-tetrazole, monohydrate (0.131 g; 1.3 mmole), following the procedure of Example 3, there is obtained 4,9-dihydro-9-oxo-5-(tetrahydro-2-thienyl)-N-1H-tetrazol-5-yl-pyrazolo[5,1-b]quinazoline-2-carboxamide (70 mg); mp>230° (d).

reactant | 4,9-dihydro-9-oxo-5-(tetrahydro-2-thienyl)pyrazolo[5,1-b]quinazoline-2-carboxylic acid | O=C1N2C(NC=3C(=CC=CC13)C1SCCC1)=CC(=N2)C(=O)O | C15H13N3O3S
reactant | methanol | 1.3 mmole, 0.40 g | CO | CH4O
reactant | 1,1' carbonyl-diimidazole | 3.1 mmole, 0.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-amino-1H-tetrazole, monohydrate | 1.3 mmole, 0.131 g | O.NC1=NN=NN1
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4,9-dihydro-9-oxo-5-(tetrahydro-2-thienyl)-N-1H-tetrazol-5-yl-pyrazolo[5,1-b]quinazoline-2-carboxamide | 70 mg | O=C1N2C(NC=3C(=CC=CC13)C1SCCC1)=CC(=N2)C(=O)NC2=NN=NN2 | C16H14N8O2S
